US08044041B2
[3-(2-Pyrrolidin-1-yl-ethylcarbamoyl)-benzyl]-carbamic acid tert-butyl ester
A mixture of 3-(tert-Butoxycarbonylamino-methyl)-benzoic acid (500 mg, 1.99 mmol), 2-Pyrrolidin-1-yl-ethylamine (0.28 mL, 2.19 mmol), EDC (459 mg, 2.39 mmol), HOBt (323 mg, 2.39 mmol) and triethylamine (0.40 mL, 2.99 mmol) in DMF (10 mL) was stirred at ambient temperature for 15 h. The mixture was diluted with EtOAc (25 mL) and washed with water (25 mL) and NaHCO3 (25 mL). The aqueous mixture was extracted with EtOAc (2×25 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated to yield the title compound (403 mg, 58%). m/z (M+1) 348.21.

reactant | 3-(tert-Butoxycarbonylamino-methyl)-benzoic acid | 1.99 mmol, 500 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | 2-Pyrrolidin-1-yl-ethylamine | 2.19 mmol, 0.28 mL | N1(CCCC1)CCN | C6H14N2
reactant | EDC | 2.39 mmol, 459 mg
reactant | HOBt | 2.39 mmol, 323 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2.99 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | [3-(2-Pyrrolidin-1-yl-ethylcarbamoyl)-benzyl]-carbamic acid tert-butyl ester | 403 mg, 58% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)C(NCCN1CCCC1)=O)=O | C19H29N3O3
